US06858651B2
A solution of 400 mg (corresponds to 0.69 mmol) of crude trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-but-3-ynyl ester in 4 ml of methanol was treated with 1.23 ml (6.88 mmol) Dimethylamine (33% in EtOH, 5.6M) and stirred over night at RT. The reaction was heated at 70° C. for 2 h, cooled, evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 99:1 to 9:1) gave 84 mg (34%) of trans-[4-(4-Dimethylamino-but-1-ynyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester, MS: 363 (MH+, 1Cl).

reactant | trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-but-3-ynyl ester | 0.69 mmol, 400 mg | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)C#CCCOS(=O)(=O)C)C)C=C1 | C19H24ClNO5S
reactant | Dimethylamine | 6.88 mmol, 5.6M, 1.23 ml | CNC | C2H7N
solvent | methanol | 4 ml | CO | CH4O
product | trans-[4-(4-Dimethylamino-but-1-ynyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | 84 mg, 34% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCCN(C)C)=O | C20H27ClN2O2
